US06383986B1
2-(4-Chloro-6-fluoro-3-hydroxy-2-nitrophenyl)-3-chloro-5-trifluoromethylpyridine
0.24 ml (5.8 mmol) of 100% strength nitric acid was added to 1.9 g (5.8 mmol) of 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-3-chloro-5-trifluoromethylpyridine in 50 ml of concentrated sulfuric acid. The reaction mixture was stirred at about 20° C. for 10 hours and then poured into 100 ml of ice-water. The solids were subsequently removed and dried at 40° C. in a vacuum drying cabinet. Yield: 79%; m.p.: 67-72° C.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-3-chloro-5-trifluoromethylpyridine | 5.8 mmol, 1.9 g | ClC1=CC(=C(C=C1O)C1=NC=C(C=C1Cl)C(F)(F)F)F | C12H5Cl2F4NO
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(4-Chloro-6-fluoro-3-hydroxy-2-nitrophenyl)-3-chloro-5-trifluoromethylpyridine | Yield: 79% | ClC1=C(C(=C(C(=C1)F)C1=NC=C(C=C1Cl)C(F)(F)F)[N+](=O)[O-])O | C12H4Cl2F4N2O3
